US08022062B2
6-Cyclohexylamino-nicotinonitrile:
Add cyclohexylamine (7.1 g, 72 mmol) to a mixture of 6-chloronicotinitrile (1 g, 7.2 mmol), potassium carbonate (3 g, 21.7 mmol), and anhydrous DMF (10 mL). Heat the mixture in a sealed flask at 120° C. for 1.5 h. Cool the reaction to ambient temperature, dilute with hexane/EtOAc (1:1, 100 mL) and wash the mixture with aqueous 5% sodium chloride (3×30 mL). Collect the organic layer and concentrate in vacuo to obtain the desired intermediate (1.4 g, 97%). GC-MS m/z: 201 (M+).

reactant | cyclohexylamine | 72 mmol, 7.1 g | C1(CCCCC1)N | C6H13N
reactant | 6-chloronicotinitrile | 7.2 mmol, 1 g | C1=CC(=NC=C1C#N)Cl | C6H3ClN2
reactant | potassium carbonate | 21.7 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | hexane EtOAc | 100 mL | CCCCCC.CCOC(=O)C
product | 6-Cyclohexylamino-nicotinonitrile | 1.4 g, 97% | C1(CCCCC1)NC1=NC=C(C#N)C=C1 | C12H15N3
